US05852011
2-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]ethylamine
3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionic acid (0.20 g; 0.69 mmol) was suspended in 1 ml of acetone and the resulting mixture was stirred under a nitrogen gas atmosphere and ice-cooling. Triethylamine (115 μl; 0.82 mmol; 1.2 equivalents) and ethyl chloroformate (79 μl; 0.82 mmol; 1.2 equivalents) were added successively. Fifteen minutes later, a solution of 90 mg (1.38 mmol; 2.0 equivalents) of sodium azide in 1 ml of water was added dropwise. The resulting mixture was stirred, as was, for 30 minutes, to which ice was added to terminate the reaction. The thus-obtained mixture was extracted three times with 15 ml portions of benzene. The benzene layers were combined, dried over sodium sulfate and then heated under reflux for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was added with 7.5 ml of 8N hydrochloric acid, followed by heating for 15 minutes at 100° C. The resulting mixture was concentrated under reduced pressure and the residue was diluted with water. The thus-obtained mixture was adjusted to pH 12 with concentrated aqueous ammonia, followed by extraction with ethyl acetate. The extract was dried and concentrated, whereby 0.15 g of the title compound was obtained as a brown oil. This reaction product was provided for use in the next reaction without purification.

reactant | 3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionic acid | 0.69 mmol, 0.20 g | ClCCN(CCCl)C1=CC=C(C=C1)CCC(=O)O | C13H17Cl2NO2
reactant | Triethylamine | 0.82 mmol, 115 μl, 1.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.82 mmol, 79 μl, 1.2 equivalents | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 1.38 mmol, 90 mg, 2.0 equivalents | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 1 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
product | 2-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]ethylamine | 0.15 g | ClCCN(CCCl)C1=CC=C(C=C1)CCN | C12H18Cl2N2
